US05563162
To a mixture of 8-[2,6-dichloro-3-(phthalimidoacetylamino)benzyloxy]-2-methylquinoline (4.44 g) and N,N-dimethylformamide (44 ml) was added sodium hydride (60% in oil, 375 mg) in an ice-water bath. After stirring for 30 minutes in an ice-water bath, methyl iodide (0.6 ml) was added thereto and the mixture was stirred at ambient temperature for 1 hour. To this mixture was added water (88 ml) in an ice-water bath and the mixture was stirred at the same temperature for 1.5 hours. The precipitate was collected by vacuum filtration and washed with water and methanol to give 8-[2,6-dichloro-3-[N-(phthalimidoacetyl)-N-methylamino]benzyloxy]-2-methylquinoline (3.99 g) as a yellow powder.

reactant | 8-[2,6-dichloro-3-(phthalimidoacetylamino)benzyloxy]-2-methylquinoline | 4.44 g | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1NC(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)Cl | C27H19Cl2N3O4
reactant | N,N-dimethylformamide | 44 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 375 mg | [H-].[Na+]
reactant | methyl iodide | 0.6 ml | CI | CH3I
solvent | water | 88 ml | O | H2O
product | 8-[2,6-dichloro-3-[N-(phthalimidoacetyl)-N-methylamino]benzyloxy]-2-methylquinoline | 3.99 g | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C)C(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)Cl | C28H21Cl2N3O4
